US08748442B2
To a suspension of 2-(4-bromo-1-(2-fluorobenzyl)-5-p-tolyl-1H-pyrazol-3-yl)pyrimidine (145 mg, 0.343 mmol) in N,N-dimethylformamide was added copper(I) cyanide (178 mg, 1.884 mmol). The solution was cooled to 23° C. and 5 mL of water, 5 mL of ammonium hydroxide, and 5 mL of ethyl acetate were added. The blue heterogeneous mixture was stirred rapidly for 45 min, and then further diluted with ethyl acetate (75 mL) and water (50 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (2×50 mL). The organics were combined and washed with brine (50 mL), dried over magnesium sulfate, filtered, and the solvent was removed in vacuo to give the crude product as an oil. Purification by silica gel chromatography (hexanes/ethyl acetate) gave 1-(2-fluorobenzyl)-3-(pyrimidin-2-yl)-5-p-tolyl-1H-pyrazole-4-carbonitrile (114 mg, 0.309 mmol, 90% yield) as a white solid. 1H NMR (400 MHz, CDCl3) δ 8.92 (d, 2H), 7.34-7.23 (m, 6H), 7.09-6.98 (m, 3H), 5.52 (s, 2H), 2.42 (s, 3H).

reactant | 2-(4-bromo-1-(2-fluorobenzyl)-5-p-tolyl-1H-pyrazol-3-yl)pyrimidine | 0.343 mmol, 145 mg | BrC=1C(=NN(C1C1=CC=C(C=C1)C)CC1=C(C=CC=C1)F)C1=NC=CC=N1 | C21H16BrFN4
reactant | copper(I) cyanide | 1.884 mmol, 178 mg | [Cu]C#N
reactant | ammonium hydroxide | 5 mL | [OH-].[NH4+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 5 mL | O | H2O
product | 1-(2-fluorobenzyl)-3-(pyrimidin-2-yl)-5-p-tolyl-1H-pyrazole-4-carbonitrile | 0.309 mmol, 114 mg, 90% yield | FC1=C(CN2N=C(C(=C2C2=CC=C(C=C2)C)C#N)C2=NC=CC=N2)C=CC=C1 | C22H16FN5
